US06127390
Step A: 4-Cyanobenzyl histamine
1-Pivaloyloxymethyl-3-(4-cyanobenzyl)-4-(2-phthalimidoethyl) imidazolium bromide (1.00 g, 1.81 mmol) was dissolved in ethanol (50 mL), treated with hydrazine (0.287 mL, 9.06 mmol), and heated at reflux for 16 h. Dimethyl phthalate (2.22 mL, 13.57 mmol) was added and reflux was continued for 6 h. The reaction mixture was cooled in an ice-H2O bath, the solid precipitate filtered off, the filtrate concentrated to dryness, and the residue chromatographed (SiO2, CH2Cl2 (NH4OH): 3-8% CH3OH) to give the title compound. 1H NMR (CD3OD) δ 7.76 (s, 1H), 7.74 (d, 2H, J=8 Hz), 7.27 (d, 2H, J=8 Hz), 6.88 (s, 1H), 5.35 (s, 2H), 2.76 (t, 2H, J=6 Hz), 2.60 (t, 2 H, J=6 Hz).

reactant | 1-Pivaloyloxymethyl-3-(4-cyanobenzyl)-4-(2-phthalimidoethyl) imidazolium bromide | 1.81 mmol, 1.00 g | [Br-].C(C(C)(C)C)(=O)OC[N+]1=CN(C(=C1)CCN1C(C=2C(C1=O)=CC=CC2)=O)CC2=CC=C(C=C2)C#N
reactant | hydrazine | 9.06 mmol, 0.287 mL | NN | H4N2
reactant | Dimethyl phthalate | 13.57 mmol, 2.22 mL | C(C=1C(C(=O)OC)=CC=CC1)(=O)OC | C10H10O4
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 4-Cyanobenzyl histamine | C(#N)C1=CC=C(CNCCC2=CNC=N2)C=C1 | C13H14N4
